US05075316
Preparation of 2-phenylamino-4-dimethylamino-6-cyclopropylpyrimidine of the formula
17.9 ml of 33% (100 mmol) absolute ethanolic dimethylamine solution are added dropwise to 9.8 g (40 mmol) of 2-phenylamino-4-chloro-6-cyclopropyl-pyrimidine in 20 ml of absolute ethanol at room temperature in the course of 10 minutes, while stirring, and the yellow suspension formed is heated at 50° C. for one hour and then refluxed for a further hour. After evaporation of the solvent, the residue is taken up in 200 ml of methylene chloride and the mixture is washed twice with 100 ml of water each time, dried over sodium sulfate, filtered and freed from the methylene chloride by evaporation. The 10.2 g of a yellow oil which remain are purified by column chromatography over silica gel using methylene chloride as the mobile phase. After evaporation of the methylene chloride, a pale yellow oil remains, which crystallizes after some hours. The pale yellow crystals melt at 90°-91° C. Yield: 8.9 g (35 mmol; 87.5% of theory).

reactant | dimethylamine | 100 mmol | CNC | C2H7N
reactant | 2-phenylamino-4-chloro-6-cyclopropyl-pyrimidine | 40 mmol, 9.8 g | C1(=CC=CC=C1)NC1=NC(=CC(=N1)Cl)C1CC1 | C13H12ClN3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-phenylamino-4-dimethylamino-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)N(C)C)C1CC1 | C15H18N4
